US04868344
A solution of 3-chloropropiophenone (8.93 g, 50 mmol in 25 ml THF) was added to (-) diisopinocampheylchloroborane (Ipc2BCl, 18.0 g, 56 mmole, in 25 ml THF at -24° C.). The reaction was complete within 7 hours after which all volatiles were removed under reduced pressure. The residue was dissolved in ether, and diethanolamine (2 equivalents) was added. The resulting suspension was stirred for two hours and filtered. The solid residue was washed with ether and the combined washings and filtrate were concentrated. Distillation furnished [S]-(-)-1-chloro-3-phenyl-3-propanol. Yield: 6.1g, 72%; mp 56-57° C.; [α]D23 -25.25, c=7.05, CHCl3 ; 97%ee.

reactant | 3-chloropropiophenone | 50 mmol, 25 ml, 8.93 g | ClCCC(=O)C1=CC=CC=C1 | C9H9ClO
reactant | diethanolamine | 2 equivalents | N(CCO)CCO | C4H11NO2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | [S]-(-)-1-chloro-3-phenyl-3-propanol | ClCC[C@H](O)C1=CC=CC=C1 | C9H11ClO
